US06884821B1
Using ethyl 2-isopropoxy-3-[4-methoxy-3-([4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzoyl]aminomethyl)phenyl]propanoate and 2-bromopyridine, 2-isopropoxy-3-[4-methoxy-3-[([4-(2-pyridyl)benzoyl]amino)methyl]phenyl)propanoic acid was obtained in the same method as in Example 285).

reactant | ethyl 2-isopropoxy-3-[4-methoxy-3-([4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzoyl]aminomethyl)phenyl]propanoate | C(C)(C)OC(C(=O)OCC)CC1=CC(=C(C=C1)OC)CNC(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C29H40BNO7
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 2-isopropoxy-3-[4-methoxy-3-[([4-(2-pyridyl)benzoyl]amino)methyl]phenyl)propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CNC(C1=CC=C(C=C1)C1=NC=CC=C1)=O | C26H28N2O5
